US07338959B2
2-Methyl-5-(4-{methyl-[1-methyl-2-(1-phenyl-ethylamino)-1H-benzoimidazol-5-yl]-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 5-amino-2-methyl-benzenesulfonamide (46 mg, 0.25 mmol) as a white solid (90 mg, 63%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.85 (br s, 2H), 8.52 (s, 1H), 7.83 (d, J=6.3 Hz, 1H), 7.65-7.68 (dd, J=8.1 and 1.8 Hz, 1H), 7.51-7.57 (m, 3H), 7.34-7.39 (m, 2H), 7.25-7.30 (m, 4H), 7.15-7.22 (m, 2H), 5.70 (d, J=6.3 Hz, 1H), 5.22 (m, 1H), 3.74 (s, 3H), 3.47 (s, 3H), 2.51 (s, 3H), 1.63 (d, J=6.6 Hz, 3H). MS (ESI) m/z=543 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C2=CC=CC=C2)C)C=C1)C | C21H21ClN6
reactant | 5-amino-2-methyl-benzenesulfonamide | 0.25 mmol, 46 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H10N2O2S
product | 2-Methyl-5-(4-{methyl-[1-methyl-2-(1-phenyl-ethylamino)-1H-benzoimidazol-5-yl]-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride | Cl.CC1=C(C=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C2=CC=CC=C2)C)C=C1)C)S(=O)(=O)N | InChI=1S/C28H30N8O2S.ClH/c1-18-10-11-21(16-25(18)39(29,37)38)32-27-30-15-14-26(34-27)35(3)22-12-13-24-23(17-22)33-28(36(24)4)31-19(2)20-8-6-5-7-9-20;/h5-17,19H,1-4H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
